US04673686
N-(1-cyclopropylmethyl-2-pyrrolidylmethyl)-2-methoxy-3-isopropyl-5-sulphamoyl-6-methylbenzamide
4.3 g of 1-cyclopropylmethyl-2-aminomethylpyrrolidine (0.028 mole) and 40 ml of methylethyl ketone are placed in 250 ml flask fitted with an agitator, a thermometer and a dropping funnel. The mixture is cooled to about 10° C. and a solution of 7.6 g of 2-methoxy-3-isopropyl-5-sulphamoyl-6-methyl benzoyl chloride (0.025 mole) in 50 ml of methyl-ethyl-ketone is poured in drop by drop. The mixture is reacted for 1 hour at room temperature then evaporated dry under vacuum, and the residue is dissolved in 100 ml of water and 10 ml of hydrochloric acid (density 1.18). The solution is sucked up under vacuum to eliminate the last traces of solvent, an insoluble component is filtered off and the filtrate is made alkaline with 15 ml of ammonia (density=0.91). The precipitate formed is filtered, washed with water and re-crystallised moist in 50 ml of ethyl acetate. 2.5 g (24%) of product is obtained, melting at about 125° C.

reactant | 1-cyclopropylmethyl-2-aminomethylpyrrolidine | 0.028 mole, 4.3 g | C1(CC1)CN1C(CCC1)CN | C9H18N2
reactant | 2-methoxy-3-isopropyl-5-sulphamoyl-6-methyl benzoyl chloride | 0.025 mole, 7.6 g | COC1=C(C(=O)Cl)C(=C(C=C1C(C)C)S(N)(=O)=O)C | C12H16ClNO4S
solvent | methyl-ethyl-ketone | 50 ml | CC(=O)CC | C4H8O
solvent | methylethyl ketone | 40 ml | CC(=O)CC | C4H8O
product | N-(1-cyclopropylmethyl-2-pyrrolidylmethyl)-2-methoxy-3-isopropyl-5-sulphamoyl-6-methylbenzamide | 2.5 g, 24% | C1(CC1)CN1C(CCC1)CNC(C1=C(C(=CC(=C1C)S(N)(=O)=O)C(C)C)OC)=O | C21H33N3O4S
